US08252806B2
[2-(3,5-Dimethyl-pyrazol-1-yl)-quinazolin-4-yl]-(1,2,3,4-tetrahydro-naphthalen-1-yl)-amine, Hydrochloride (Compound A15)
Was prepared according to Method A from 2,4-dichloroquinazoline, 1,2,3,4-tetrahydro-1-naphthylamine and 3,5-dimethylpyrazole. Mp. 221° C.

reactant | 2,4-dichloroquinazoline | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | 1,2,3,4-tetrahydro-1-naphthylamine | C1(CCCC2=CC=CC=C12)N | C10H13N
reactant | 3,5-dimethylpyrazole | CC1=NNC(=C1)C | C5H8N2
product | [2-(3,5-Dimethyl-pyrazol-1-yl)-quinazolin-4-yl]-(1,2,3,4-tetrahydro-naphthalen-1-yl)-amine, Hydrochloride | Cl.CC1=NN(C(=C1)C)C1=NC2=CC=CC=C2C(=N1)NC1CCCC2=CC=CC=C12 | InChI=1S/C23H23N5.ClH/c1-15-14-16(2)28(27-15)23-25-21-12-6-5-11-19(21)22(26-23)24-20-13-7-9-17-8-3-4-10-18(17)20;/h3-6,8,10-12,14,20H,7,9,13H2,1-2H3,(H,24,25,26);1H
